2193-01-09 10:00:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, acute on chronic
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   49 yo man presents with increasing SOB, PND, decreased PO intake.  When
   to PCP where HR was 120s,. sat 70s on RA.  Went to ED where he received
   lasix, asa, levo, and oxygen.  Admitted to floor for CHF, got IV lasix
   with good response, but then had decompensation with desaturation,
   placed on CPAP 20, ABG 7.27/94/45 on 15L.  Brought to MICU.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   medrol 125 q8
   hep s/q
   levoflox
   lopressor
   lisinopril
   MVI
   detrol
   SSI
   advair
   simvastatin
   protonix
   Changes to medical and family history:
   h/o
   OSA
   COPD
   CAD s/p IMI, and prior OM stent
   SHX
   former 2ppd smoke
   former machinist, works in shipping and receiving
   FHx: Father with COPD, sister with "heart disease"
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-1-9**] 10:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 91 (74 - 95) bpm
   BP: 120/78(87) {88/54(62) - 120/78(87)} mmHg
   RR: 21 (15 - 24) insp/min
   SpO2: 88%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                  300 mL
   PO:
                  300 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,450 mL
                                                                    481 mL
   Urine:
                                                                    800 mL
                                                                    481 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,450 mL
                                                                   -181 mL
   Respiratory support
   O2 Delivery Device: Other
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 501) mL
   Vt (Spontaneous): 822 (811 - 911) mL
   PS : 12 cmH2O
   RR (Set): 0
   RR (Spontaneous): 24
   PEEP: 0 cmH2O
   FiO2: 60%
   PIP: 12 cmH2O
   SpO2: 88%
   ABG: 7.26/84.[**Numeric Identifier 1625**]/116/40/7
   Ve: 9 L/min
   PaO2 / FiO2: 193
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   18.1 g/dL
   212 K/uL
   165 mg/dL
   0.8 mg/dL
   40 mEq/L
   4.9 mEq/L
   16 mg/dL
   96 mEq/L
   141 mEq/L
   57.4 %
   7.7 K/uL
        [image002.jpg]
                             [**2193-1-9**]  12:20 AM
                             [**2193-1-9**]  12:33 AM
                             [**2193-1-9**]  04:21 AM
                             [**2193-1-9**]  05:08 AM
   WBC
   7.7
   Hct
   57.4
   Plt
   212
   Cr
   0.8
   TropT
   0.05
   0.02
   TCO2
   41
   39
   Glucose
   165
   Other labs: CK / CKMB / Troponin-T:48//0.02, Lactic Acid:1.0 mmol/L,
   Ca++:9.1 mg/dL, Mg++:1.9 mg/dL, PO4:5.1 mg/dL
   Imaging: CXR: Left basilar density
   Assessment and Plan
   Acute on chronic respriatory failure:  Multifactorial including
   exacerbation of COPD, obesity hypoventilation, and fluid overload from
   right hard dysfunction and acute on chronic diastolic LV failure:
                    - Can continue steroids, nebulizers and levoflox for
   COPD and bronchitis:
                    - Lasix for further diuresis.
                    - bipap as needed
   CAD:  No evidence for acute ischemia, continue home regimen.
   DM II:  Control with SS insulin
   HTN:  Continue home regimen
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2193-1-8**] 11:19 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2193-01-10 11:39:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   49 yo man with OHS, OSA, COPD, HTN admitted with hypoxemia/hypercarbia
   and respiratory failure.
   24 Hour Events:
 NON-INVASIVE VENTILATION - STOP [**2193-1-9**] 09:18 AM
 TRANSTHORACIC ECHO - At [**2193-1-9**] 10:08 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2193-1-9**] 05:55 PM
   Other medications:
   medrol 135 q8
   lopressor
   lisinopril
   tolteradine
   advair
   simvastatin
   protonix
   atrovent
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2193-1-10**] 11:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.8
C (96.5
   HR: 78 (67 - 100) bpm
   BP: 103/60(70) {82/50(58) - 118/74(81)} mmHg
   RR: 23 (9 - 25) insp/min
   SpO2: 87%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,319 mL
                                                                    661 mL
   PO:
                                                                  1,280 mL
                                                                    600 mL
   TF:
   IVF:
                                                                     39 mL
                                                                     61 mL
   Blood products:
   Total out:
                                                                  2,701 mL
                                                                  1,020 mL
   Urine:
                                                                  2,701 mL
                                                                  1,020 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,382 mL
                                                                   -359 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 732 (732 - 2,371) mL
   PS : 12 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 18 cmH2O
   SpO2: 87%
   ABG: 7.39/69/85.[**Numeric Identifier 128**]/41/12
   Ve: 5.8 L/min
   PaO2 / FiO2: 142
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   18.2 g/dL
   208 K/uL
   154 mg/dL
   0.7 mg/dL
   41 mEq/L
   4.5 mEq/L
   18 mg/dL
   94 mEq/L
   139 mEq/L
   54.4 %
   8.6 K/uL
        [image002.jpg]
                             [**2193-1-9**]  12:20 AM
                             [**2193-1-9**]  12:33 AM
                             [**2193-1-9**]  04:21 AM
                             [**2193-1-9**]  05:08 AM
                             [**2193-1-9**]  03:46 PM
                             [**2193-1-10**]  04:10 AM
                             [**2193-1-10**]  05:41 AM
   WBC
   7.7
   8.6
   Hct
   57.4
   54.4
   Plt
   212
   208
   Cr
   0.8
   0.8
   0.7
   TropT
   0.05
   0.02
   0.02
   TCO2
   41
   39
   43
   Glucose
   165
   208
   154
   Other labs: PT / PTT / INR:16.4/28.1/1.5, CK / CKMB /
   Troponin-T:48//0.02, Lactic Acid:1.0 mmol/L, Ca++:9.1 mg/dL, Mg++:2.5
   mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION:  Can wean steroids to 60 mg prednisone PO.
   Continue Levoflox.
   Obesity hypoventilation/OSA:  Will discuss with his outpatient [**Name8 (MD) **] MD
   as to therapeutic options for him.  ?Benefit from inpatient pulmonary
   and sleep rehab given his profound hypoxemia.  WIll discuss with case
   management
 HEART FAILURE (CHF): Diastolic, ACUTE:  Seems euvolemic.
   OOB to chair and PT consult.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2193-1-8**] 11:19 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: